* 3-stage Josephson counter, Monte Carlo analysis\n\n\
To run, give these commands to WRspice after sourcing this file:\n\
    mplot -on\n\
    check
*
* Warning:  This file probably requires WRspice-4.3.3 or later.
*
.monte
.exec
# Monte Carlo analysis of a Josephson binary counter.
# This is an example of a Monte Carlo analysis input file.
#
# After sourcing the file, optionally enter "mplot -on" to see results
# graphically, then "check" to initiate run.  The results will be left
# in a file.
#
compose checkPNTS values 50p 135p 185p 235p 285p 335p 385p 435p 485p
#
# These two lines specify the random variables.  This gets called
# before each trial.
set value1 = $&(13*gauss(.2,1))
set value2 = $&(38*gauss(.2,1))
# Put the values in the output file.
echof $value1 $value2
#
# One can define other initialized constants here as well.
let failthres = 1
#
# end of header
.endc
.control
#
# The following code is evaluated just after the time variable exceeds
# each one of the checkPNTS.
#
if time > checkPNTS[0]
    if time < checkPNTS[1]
# time is 50p, set quiescent phase differences.  Uninitialized variables
# do not require declaration in header.
        p0 = v(200) - v(201)
        p1 = v(300) - v(301)
        p2 = v(400) - v(401)
        checkFAIL = 0
        echo Test values: $value1 $value2
    else
        echo -n "  Checking at time $&time ... "
    end
end
if time > checkPNTS[1]
    if time < checkPNTS[2]
# time = 135p, state should be '001'. if not set checkFAIL to 1
# pi and the other variables in the 'constants' plot are known
        if abs(v(200) - v(201) + p0 - 2*pi) > failthres
            checkFAIL = 1;
        end
        if abs(v(300) - v(301) - p1) > failthres
            checkFAIL = 1;
        end
        if abs(v(400) - v(401) - p2) > failthres
            checkFAIL = 1;
        end
    end
end
if time > checkPNTS[2]
    if time < checkPNTS[3]
# time = 185p, state should be '010'. if not set checkFAIL to 1
        if abs(v(200) - v(201) - p0) > failthres
            checkFAIL = 1;
        end
        if abs(v(300) - v(301) + p1 - 2*pi) > failthres
            checkFAIL = 1;
        end
        if abs(v(400) - v(401) - p2) > failthres
            checkFAIL = 1;
        end
    end
end
if time > checkPNTS[3]
    if time < checkPNTS[4]
# time = 235p, state should be '011'. if not set checkFAIL to 1
        if abs(v(200) - v(201) + p0 - 2*pi) > failthres
            checkFAIL = 1;
        end
        if abs(v(300) - v(301) + p1 - 2*pi) > failthres
            checkFAIL = 1;
        end
        if abs(v(400) - v(401) - p2) > failthres
            checkFAIL = 1;
        end
    end
end
if time > checkPNTS[4]
    if time < checkPNTS[5]
# time = 285p, state should be '100'. if not set checkFAIL to 1
        if abs(v(200) - v(201) - p0) > failthres
            checkFAIL = 1;
        end
        if abs(v(300) - v(301) - p1) > failthres
            checkFAIL = 1;
        end
        if abs(v(400) - v(401) + p2 - 2*pi) > failthres
            checkFAIL = 1;
        end
    end
end
if time > checkPNTS[5]
    if time < checkPNTS[6]
# time = 335p, state should be '101'. if not set checkFAIL to 1
        if abs(v(200) - v(201) + p0 - 2*pi) > failthres
            checkFAIL = 1;
        end
        if abs(v(300) - v(301) - p1) > failthres
            checkFAIL = 1;
        end
        if abs(v(400) - v(401) + p2 - 2*pi) > failthres
            checkFAIL = 1;
        end
    end
end
if time > checkPNTS[6]
    if time < checkPNTS[7]
# time = 385p, state should be '110'. if not set checkFAIL to 1
        if abs(v(200) - v(201) - p0) > failthres
            checkFAIL = 1;
        end
        if abs(v(300) - v(301) + p1 - 2*pi) > failthres
            checkFAIL = 1;
        end
        if abs(v(400) - v(401) + p2 - 2*pi) > failthres
            checkFAIL = 1;
        end
    end
end
if time > checkPNTS[7]
    if time < checkPNTS[8]
# time = 435p, state should be '111'. if not set checkFAIL to 1
        if abs(v(200) - v(201) + p0 - 2*pi) > failthres
            checkFAIL = 1;
        end
        if abs(v(300) - v(301) + p1 - 2*pi) > failthres
            checkFAIL = 1;
        end
        if abs(v(400) - v(401) + p2 - 2*pi) > failthres
            checkFAIL = 1;
        end
    end
end
if time > checkPNTS[1]
    if checkFAIL <> 0
        echo FAILED
    else
        echo OK
    end
end
#
# end of pass/fail logic
.endc
.tran 1p 500p uic
.subckt count 1 4 5 6 7
c1 4 0 3.2p
r1 3 8 .4
r2 4 9 1.1
b1 3 0 6 jj1 ics=0.6mA
b2 5 0 7 jj1 ics=0.6mA
l1 3 4 2.0p
l2 4 5 2.0p
l3 1 2 2.0p
l4 2 0 2.0p
l5 8 0 1.4p
l6 9 0 .1p
k1 l1 l3 .99
k2 l2 l4 .99
.ends count
r1 17 2 50
r2 1 6 50
r3 1 10 50
r4 1 14 50
r5 3 18 50
r6 7 13 50
r7 11 13 50
r8 15 13 50
r9 3 20 50
r10 4 5 .43
r11 8 9 .43
r12 12 19 .43
r13 16 30 .5
l1 5 6 2.1p
l2 9 10 2.1p
l3 19 14 2.1p
l4 30 0 2p
x1 3 2 4 100 101 count
x2 7 6 8 200 201 count
x3 11 10 12 300 301 count
x4 15 14 16 400 401 count
*
* These are the sources which vary.
* In general, the $value1 or $value2 symbols can replace any numerical
* parameter in the circuit description.  No checking is done as to whether
* the substitution makes sense.
*
*flux bias
v1 13 0 $value1%m
*gate bias
v2 1 0 $value2%m
*
v3 20 0 pwl(0 0 70p 0
+ 75p  15m 90p  15m 100p -15m 115p -15m 
+ 125p 15m 140p 15m 150p -15m 165p -15m
+ 175p 15m 190p 15m 200p -15m 215p -15m
+ 225p 15m 240p 15m 250p -15m 265p -15m
+ 275p 15m 290p 15m 300p -15m 315p -15m
+ 325p 15m 340p 15m 350p -15m 365p -15m
+ 375p 15m 390p 15m 400p -15m 415p -15m
+ 425p 15m 440p 15m 450p -15m 465p -15m 500p -15m)
*
* flux bias first stage
v4 18 0 13m
*gate bias first stage
v5 17 0 39m
*
* Below,
* Level=1 selects the internal JJ model.
* Level=2 selects the example Verilog-A JJ model, if loaded (with
* the devload command).
*
.model jj1 jj(level=1)
.end
